US09255110B2
Concentrated sulfuric acid (1 mL) was added to (E)-3-ethoxy-N-(3-methoxy-4-nitro-phenyl)-acrylamide (225 mg) with cooling and the resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was then poured into ice-water and stirred for 1 hour. The solid which crushed out was collected by filtration and dried under vacuum to give 142 mg of 7-methoxy-6-nitro-1H-quinolin-2-one as a brown solid. MS=221 [M+H]+.

reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | (E)-3-ethoxy-N-(3-methoxy-4-nitro-phenyl)-acrylamide | 225 mg | C(C)O/C=C/C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])OC | C12H14N2O5
product | 7-methoxy-6-nitro-1H-quinolin-2-one | 142 mg | COC1=C(C=C2C=CC(NC2=C1)=O)[N+](=O)[O-] | C10H8N2O4
